US07115624B1
In a 4-ml scintillating vial, a solution of the above 2-amino-5-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester (63 mg, 0.2 mmol) in tetrahydrofuran (2.0 ml) was treated with 3-nitro-phthalic acid (66 mg, 0.3 mmol), diisopropylethylamine (190 μl, 1.1 mmol), and 1,3-diisopropyl-carbodiimide (120 μl, 0.77 mmol). The reaction mixture was shaken vigorously for 10 seconds before being stirred at 50° C. for 43 hours and at room temperature for 20 h. The reaction mixture was diluted with ethyl acetate (25 ml) and washed with 0.5N aqueous hydrochloric acid (25 ml), saturated sodium bicarbonate (25 ml), and brine (25 ml). The organic layer was dried (MgSO4), filtered and the solvent evaporated in vacuo affording crude 2-amino-5-(4-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl) 4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester as a solid.

reactant | 2-amino-5-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 0.2 mmol, 63 mg | C(C)(C)(C)OC(=O)C1=C(SC=2COC(CC21)CN)N | C13H20N2O3S
reactant | 3-nitro-phthalic acid | 0.3 mmol, 66 mg | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | diisopropylethylamine | 1.1 mmol, 190 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,3-diisopropyl-carbodiimide | 0.77 mmol, 120 μl | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-amino-5-(4-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl) 4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=C(SC=2COC(CC21)CN2C(C1=CC=CC(=C1C2=O)[N+](=O)[O-])=O)N | C21H21N3O7S
